### PR TITLE
feat(RingTheory/AdicCompletion): completeness of adic completion

### PR DESCRIPTION
**Pull request by BryceT233**
Following [[Stacks 05GG](https://stacks.math.columbia.edu/tag/05GG)], this PR formalizes the result that `AdicCompletion I M` is `I`-adically complete when the ideal `I` is finitely generated.

Key contributions:

1. Constructed `AdicCompletion.finsuppSum`, the canonical map from the finitely supported functions of adic completions to the adic completion of finitely supported functions, and established its inverse map when the index type is finite
2. Provided auxiliary lemmas regarding the canonical inclusion from `I ^ a • N ⧸ I ^ b • (I ^ a • N)` to `M ⧸ I ^ c • N` where `c = b + a`
3. Formalized helper lemmas concerning the canonical inclusion from the adic completion of `I ^ n • M` into the adic completion of `M`
4. **Main Result:** Formalized part (2) of [Stacks 05GG], from which the completeness of `AdicCompletion I M` follows
 
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 1]
```diff
@@ -0,0 +1,234 @@
...
+variable {M : Type*} [AddCommGroup M] [Module R M]
+
+namespace AdicCompletion
+
+open Submodule
+
+variable (M) in
+/-- The canonical inclusion from the adic completion of `I ^ n • M` to
+the adic completion of `M`. -/
+def powSmulTopInclusion (n : ℕ) := (AdicCompletion.map I (topEquiv.toLinearMap ∘ₗ
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: Please give definitions proper signatures.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 2]
```diff
@@ -177,3 +177,53 @@ lemma factorPowSucc.isUnit_of_isUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I
...
+section powSmulQuotInclusion
+
+variable {M : Type*} [AddCommGroup M] [Module R M]
+
+namespace Submodule
+
+variable (M) in
+/-- The canonical inclusion from `I ^ a • M ⧸ I ^ b • (I ^ a • M)` to `M ⧸ I ^ c • M`
+when `c = a + b`. -/
+def powSmulQuotInclusion {a b c : ℕ} (h : c = a + b) := liftQ (I ^ b •
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean]: Same here.

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean]: And for this I think this is easier to work with
```
def powSmulQuotInclusion {a b c : ℕ} (h : c = b + a) (N : Submodule R M) : 
    ↑(I ^ a • N) ⧸ (I ^ b • ⊤ : Submodule R ↑(I ^ a • N)) →ₗ[R] M ⧸ (I ^ c • N) :=
  mapQ _ _ (I ^ a • N).subtype <| by simp [← map_le_iff_le_comap, h, pow_add, mul_smul]
```

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 3]
```diff
@@ -177,3 +177,53 @@ lemma factorPowSucc.isUnit_of_isUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I
...
+      exact smul_mem_smul r_in t_in)
+
+theorem powSmulQuotInclusion_injective {a b c : ℕ} (h : c = a + b) :
+    Function.Injective (powSmulQuotInclusion I M h) := by
+  rw [powSmulQuotInclusion, ← LinearMap.ker_eq_bot, ker_liftQ, eq_bot_iff, SetLike.le_def]
+  simp only [mem_map, LinearMap.mem_ker, LinearMap.coe_comp, LinearEquiv.coe_coe,
+    Function.comp_apply, topEquiv_apply, coe_inclusion, mkQ_apply, Quotient.mk_eq_zero,
+    Subtype.exists, exists_and_left, mem_bot, forall_exists_index, and_imp]
+  intro _ _ _ _ h'
+  rwa [← h', Quotient.mk_eq_zero, mem_smul_top_iff, smul_smul, ← pow_add, Nat.add_comm, ← h]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean]: For example, under the new definition, this is just
```
theorem powSmulQuotInclusion_injective {a b c : ℕ} (h : c = b + a) (N : Submodule R M) : 
    Function.Injective (powSmulQuotInclusion I M h N) := by
  rw [← LinearMap.ker_eq_bot]
  simp [powSmulQuotInclusion, mapQ, ← le_bot_iff, ker_liftQ, LinearMap.ker_comp, pow_add, mul_smul,
    map_le_iff_le_comap, ← Submodule.map_le_map_iff_of_injective (I ^ a • N).subtype_injective, h]
```

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 4]
```diff
@@ -0,0 +1,234 @@
...
+    ((I ^ n • (⊤ : Submodule R M)).inclusion le_top)))
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: And there is `Submodule.subtype` that you can use instead.

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 5]
```diff
@@ -0,0 +1,234 @@
...
+    [∀ i, Module R (P i)] [AddCommGroup N] [Module R N] (φ : ∀ i, P i →ₗ[R] N)
+      [DecidableEq ι] : (map I (DirectSum.toModule R ι N φ)) ∘ₗ (sum I P) =
+        DirectSum.toModule (AdicCompletion I R) ι (AdicCompletion I N) (fun i ↦ map I (φ i)) := by
+  ext; simp
+
+theorem map_lsmul_eq_lsmul_of (r : R) : map I (LinearMap.lsmul R M r) =
+    LinearMap.lsmul (AdicCompletion I R) (AdicCompletion I M) (of I R r) := by rfl
+
+variable {I} in
+theorem pow_smul_top_eq_eval_ker {n : ℕ} (h : I.FG) : I ^ n • ⊤ = (eval I M n).ker := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean:139]:
```suggestion
@[stacks 05GG "(2)"]
theorem pow_smul_top_eq_eval_ker {n : ℕ} (h : I.FG) : I ^ n • ⊤ = (eval I M n).ker := by
```

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 6]
```diff
@@ -0,0 +1,234 @@
...
+* `AdicCompletion.IsAdicComplete`: `AdicCompletion I M` is `I`-adically complete if `I` is
+  finitely generated.
+
+-/
+
+public section
+
+noncomputable section
+
+section preliminary
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: This section shouldn't be here.

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 7]
```diff
@@ -0,0 +1,234 @@
...
+
+variable {R : Type*} [CommSemiring R]
+variable {M : Type*} [AddCommGroup M] [Module R M]
+
+namespace Submodule
+
+open Pointwise Classical in
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: `open Classical` is usually really bad.

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 8]
```diff
@@ -0,0 +1,234 @@
...
+theorem image_smul_top_eq_range_directSum {σ : Type*} (s : Set σ) (f : σ → R) :
+    (f '' s • ⊤ : Submodule R M) =
+      (DirectSum.toModule R s M (fun r ↦ LinearMap.lsmul R M (f r.val))).range := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: `DirectSum` is usually for dependent products. Here it might be better to use `Finsupp` instead, e.g. something like
```lean
lemma Finsupp.span_single_eq_top {R M σ : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M] :
    Submodule.span R {Finsupp.single i x | (i : σ) (x : M)} = ⊤ := by
  sorry

open Pointwise in
lemma Finsupp.range_lsum_smul
    {R M N σ : Type*} [CommSemiring R] [AddCommMonoid M] [AddCommMonoid N] [Module R M]
    [Module R N] (φ : M →ₗ[R] N) (f : σ → R) :
    (Finsupp.lsum (S := R) (f · • φ)).range = Set.range f • φ.range := by
  simp_rw [LinearMap.range_eq_map,  ← Finsupp.span_single_eq_top,
    ← span_univ, map_span, set_smul_span]
  congr 1
  aesop (add simp Set.mem_smul)

open Pointwise in
theorem image_smul_top_eq_range_directSum {σ : Type*} (s : Set σ) (f : σ → R) :
    (f '' s • ⊤ : Submodule R M) = (Finsupp.lsum (S := R) fun i : s ↦ f i • .id).range := by
  simpa [Set.range_comp] using
    (Finsupp.range_lsum_smul (.id (R := R) (M := M)) (f ∘ (↑) : s → R)).symm
```

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 9]
```diff
@@ -0,0 +1,234 @@
...
+open Pointwise Classical in
+theorem smul_top_eq_range_directSum (s : Set R) : (s • ⊤ : Submodule R M) =
+    (DirectSum.toModule R s M (fun r ↦ LinearMap.lsmul R M r.val)).range := by
+  simpa using image_smul_top_eq_range_directSum (M := M) s id
+
+variable (R) in
+open scoped Pointwise in
+theorem smul_top_eq_restrictScalars_image_smul_top {S : Type*} [CommSemiring S] [Module S M]
+    [Algebra S R] [IsScalarTower S R M] (s : Set S) : (s • ⊤ : Submodule S M) =
+        ((algebraMap S R) '' s • ⊤ : Submodule R M).restrictScalars S := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: Here the equality should be swapped, since we prefer putting the more complex side on the left.
And `⊤` should be generalized to arbitrary `N : Submodule R M`, saying 
`((algebraMap S R) '' s • N).restrictScalars S = s • N.restrictScalars S`

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 3 above)
Comment (BryceT233) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean]: Thanks for the suggustions! Indeed, the new definition simplified the arguments a lot

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean (hunk 8 above)
Comment (BryceT233) [reply Mathlib/RingTheory/AdicCompletion/Completeness.lean]: I am trying this approach and it might become another PR if I keep doing it. Basically, I think I need to copy the APIs for `AdicCompletion.sum` and `AdicCompletion.sumInv` to support the following two definitions:

```
def finsupp_sum : (σ →₀ (AdicCompletion I M)) →ₗ[AdicCompletion I R] AdicCompletion I (σ →₀ M) :=
  lsum (AdicCompletion I R) (fun i ↦ map I (lsingle i))

variable [Fintype σ]

def finsupp_sumInv : AdicCompletion I (σ →₀ M) →ₗ[AdicCompletion I R] (σ →₀ (AdicCompletion I M)) :=
  (linearEquivFunOnFinite (AdicCompletion I R) (AdicCompletion I M) σ).symm ∘ₗ
    LinearMap.pi (fun i ↦ map I (lapply i))

File: Mathlib/LinearAlgebra/Finsupp/Span.lean [hunk 10]
```diff
@@ -88,6 +89,31 @@ lemma range_lmapDomain {β : Type*} (u : α → β) :
...
+  | add f g f_in g_in => exact add_mem f_in g_in
+  | single a b => exact mem_span_of_mem ⟨a, b, rfl⟩
+
+/-- The linear projection onto the `a`-th coordinate that maps a finitely supported function `f`
+to `single a (f a)`. -/
+def coordinateProj {α M R : Type*} [Semiring R] [AddCommMonoid M] [Module R M] (a : α) :
+    (α →₀ M) →ₗ[R] (α →₀ M) where
+  toFun f := single a (f a)
+  map_add' _ _ := by simp
+  map_smul' _ _ := by simp
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Finsupp/Span.lean]: I'm not sure if we want this. `lsingle a ∘ₗ lapply a` is perfectly fine I think.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 11]
```diff
@@ -207,6 +206,15 @@ theorem map_zero : map I (0 : M →ₗ[R] N) = 0 := by
 theorem map_of (f : M →ₗ[R] N) (x : M) : map I f (of I M x) = of I N (f x) :=
   rfl
 
+/-- `R`-linear version of `AdicCompletion.map` -/
+def lmap : (M →ₗ[R] N) →ₗ[R] AdicCompletion I M →ₗ[AdicCompletion I R] AdicCompletion I N where
+  toFun := map I
+  map_add' _ _ := by ext; rfl
+  map_smul' _ _ := by ext; rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: Should we just replace map with this?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 12]
```diff
@@ -441,6 +449,61 @@ theorem map_surjective_of_mkQ_comp_surjective {f : M →ₗ[R] N}
...
+
+open Finsupp
+
+variable {σ : Type*}
+
+variable (σ M I) in
+/-- The canonical map from the finitely supported functions of adic completions to
+the adic completion of finitely supported functions. This is an isomorphism if `σ` is finite. -/
+def finsupp_sum : (σ →₀ (AdicCompletion I M)) →ₗ[AdicCompletion I R] AdicCompletion I (σ →₀ M) :=
+  lsum (AdicCompletion I R) (fun i ↦ map I (lsingle i))
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean]:
```suggestion
def finsuppSum : (σ →₀ (AdicCompletion I M)) →ₗ[AdicCompletion I R] AdicCompletion I (σ →₀ M) :=
  lsum (AdicCompletion I R) fun i ↦ map I (lsingle i)
```

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 13]
```diff
@@ -441,6 +449,61 @@ theorem map_surjective_of_mkQ_comp_surjective {f : M →ₗ[R] N}
...
+    map I (finsuppLEquivDirectSum R M σ) ∘ₗ finsupp_sum I M σ = sum I (fun _ : σ ↦ M) ∘ₗ
+      (finsuppLEquivDirectSum (AdicCompletion I R) (AdicCompletion I M) σ) := by
+  ext; simp [finsupp_sum]
+
+variable [Fintype σ]
+
+variable (σ M I) in
+/-- If `σ` is finite, `AdicCompletion.finsupp_sumInv` is
+an inverse for `AdicCompletion.finsupp_sum`. -/
+def finsupp_sumInv : AdicCompletion I (σ →₀ M) →ₗ[AdicCompletion I R] (σ →₀ (AdicCompletion I M)) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean]:
```suggestion
def finsuppSumInv : AdicCompletion I (σ →₀ M) →ₗ[AdicCompletion I R] (σ →₀ (AdicCompletion I M)) :=
```

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 14]
```diff
@@ -177,3 +177,36 @@ lemma factorPowSucc.isUnit_of_isUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I
...
+theorem powSmulQuotInclusion_injective {a b c : ℕ} (h : c = b + a) (N : Submodule R M) :
+    Function.Injective (powSmulQuotInclusion I M h N) := by
+  rw [← LinearMap.ker_eq_bot]
+  simp [powSmulQuotInclusion, mapQ, ← le_bot_iff, ker_liftQ, LinearMap.ker_comp, pow_add, mul_smul,
+    map_le_iff_le_comap, ← Submodule.map_le_map_iff_of_injective (I ^ a • N).subtype_injective, h]
+
+theorem factorPow_powSmulQuotInclusion_comm {a b c d e : ℕ} (h : c = b + a) (h' : e = d + c) :
+    (factorPow I M (show c ≤ e by lia)) ∘ₗ
+      (powSmulQuotInclusion I M (show e = (b + d) + a by lia) ⊤)
+    = (powSmulQuotInclusion I M h ⊤) ∘ₗ
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean]:
```suggestion
      (powSmulQuotInclusion I M (show e = (b + d) + a by lia) ⊤) =
    (powSmulQuotInclusion I M h ⊤) ∘ₗ
```

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean (hunk 11 above)
Comment (BryceT233) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: Sounds good. I defined it separately just to be safe, but replacing map with the bundled version is definitely cleaner. I'll update it.

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 15]
```diff
@@ -441,6 +442,60 @@ theorem map_surjective_of_mkQ_comp_surjective {f : M →ₗ[R] N}
...
+variable [Fintype σ]
+
+variable (σ M I) in
+/-- If `σ` is finite, `AdicCompletion.finsuppSumInv` is
+an inverse for `AdicCompletion.finsuppSum`. -/
+def finsuppSumInv : AdicCompletion I (σ →₀ M) →ₗ[AdicCompletion I R] (σ →₀ (AdicCompletion I M)) :=
+  (linearEquivFunOnFinite (AdicCompletion I R) (AdicCompletion I M) σ).symm ∘ₗ
+    .pi (fun i ↦ map I (lapply i))
+
+theorem finsuppSumInv_comp_sum : finsuppSumInv I M σ ∘ₗ finsuppSum I M σ = .id := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean]:
```suggestion
theorem finsuppSumInv_comp_finsuppSum : finsuppSumInv I M σ ∘ₗ finsuppSum I M σ = .id := by
```

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 16]
```diff
@@ -441,6 +442,60 @@ theorem map_surjective_of_mkQ_comp_surjective {f : M →ₗ[R] N}
...
+    map I (finsuppLEquivDirectSum R M σ) ∘ₗ finsuppSum I M σ = sum I (fun _ : σ ↦ M) ∘ₗ
+      (finsuppLEquivDirectSum (AdicCompletion I R) (AdicCompletion I M) σ) := by
+  ext; simp [finsuppSum]
+
+variable [Fintype σ]
+
+variable (σ M I) in
+/-- If `σ` is finite, `AdicCompletion.finsuppSumInv` is
+an inverse for `AdicCompletion.finsuppSum`. -/
+def finsuppSumInv : AdicCompletion I (σ →₀ M) →ₗ[AdicCompletion I R] (σ →₀ (AdicCompletion I M)) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean]: Can you bundle this into an equiv instead?

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 17]
```diff
@@ -673,6 +673,20 @@ theorem of_ofLinearEquiv_symm (x : AdicCompletion I M) :
 
 end Bijective
 
+theorem pow_smul_top_le_eval_ker (n : ℕ) : I ^ n • ⊤ ≤ (eval I M n).ker := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean]:
```suggestion
theorem pow_smul_top_le_ker_eval (n : ℕ) : I ^ n • ⊤ ≤ (eval I M n).ker := by
```

**Comment by Thmoas-Guan** [comment]
I have a question here, isn't all the finsupp stuff in `Mathlib/RingTheory/AdicCompletion/Functoriality.lean` already exist as direct sum? I think in the application we can use the existing direct sum API?

File: Mathlib/RingTheory/AdicCompletion/Functoriality.lean [hunk 18]
```diff
@@ -453,6 +454,62 @@ theorem map_surjective_of_mkQ_comp_surjective {f : M →ₗ[R] N}
...
+
+open Finsupp
+
+variable {σ : Type*}
+
+variable (σ M I) in
+/-- The canonical map from the finitely supported functions of adic completions to
+the adic completion of finitely supported functions. This is an isomorphism if `σ` is finite. -/
+def finsuppSum : (σ →₀ (AdicCompletion I M)) →ₗ[AdicCompletion I R] AdicCompletion I (σ →₀ M) :=
+  lsum (AdicCompletion I R) fun i ↦ map I (lsingle i)
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Functoriality.lean:469]: I agree with Nailin, do we need this given [AdicCompletion.sumEquivOfFintype](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AdicCompletion/Functoriality.html#AdicCompletion.sumEquivOfFintype) exists?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean:469]: More radically, if our goal is `Stacks 05GG(2)`, we should use the "Pi" APIs. This is what I did in my previous approch.

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Functoriality.lean:469]: I think we would the finsupp version anyways. I'm not sure if it is easier to prove it directly or to deduce it from the direct sum version though.
